US04425338
2-(alpha-hydroxybenzyl)-benzothiazole
A mixture of O-aminothiophenol (23.5 g.) and dl-mandelic acid (25 g.) was refluxed in xylene with a Dean-Stark tube for two days.

reactant | O-aminothiophenol | 23.5 g | C1=CC=C(C(=C1)N)S | C6H7NS
reactant | dl-mandelic acid | 25 g | C(C(O)C1=CC=CC=C1)(=O)O | C8H8O3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(alpha-hydroxybenzyl)-benzothiazole | OC(C1=CC=CC=C1)C=1SC2=C(N1)C=CC=C2 | C14H11NOS
